US05962479
A. Butyl-(6-chloro-2,5-dimethyl-pyrimidin-4-yl)-ethylamine
A mixture of 2,5-dimethyl-4,6-dichloro-pyrimidine (0.999 g, 5.64 mmol) in 5 ml of acetonitrile was treated with triethylamine (0.571 g, 5.65 mmol) and N-butyl-ethyl-amine (0.570 g, 5.65 mmol) and heated at reflux overnight. The mixture was cooled, diluted with water and dilute hydrogen chloride, and extracted with ethyl acetate. The organic layer was neutralized with saturated potassium carbonate, washed with brine, dried and concentrated to give 0.877 g (64%) of title compound as a yellow oil. 1H NMR (CDCl3) δ0.90 (t, 3H), 1.15 (t, 3H), 1.22-1.36(m, 2H), 1.5-1.6(m, 2H), 2.20 (s, 3H), 2.45 (s, 3H), 3.25-3.48 (m, 4H) ppm.

reactant | 2,5-dimethyl-4,6-dichloro-pyrimidine | 5.64 mmol, 0.999 g | CC1=NC(=C(C(=N1)Cl)C)Cl | C6H6Cl2N2
reactant | triethylamine | 5.65 mmol, 0.571 g | C(C)N(CC)CC | C6H15N
reactant | N-butyl-ethyl-amine | 5.65 mmol, 0.570 g | C(CCC)NCC | C6H15N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | hydrogen chloride | Cl | ClH
product | Butyl-(6-chloro-2,5-dimethyl-pyrimidin-4-yl)-ethylamine | 0.877 g, 64% | C(CCC)N(CC)C1=NC(=NC(=C1C)Cl)C | C12H20ClN3
